*
* NGSPICE simulation script
* BJT amp with feedback
*

*Values:  R1 = 1.00455407009 
*R2 = 2.04596274404 
*R3 = 3.09144622662 
*R4 = 4.11831176554 
*R5 = 3.01223930062 
*R6 = 2.09613044241 
*R7 = 1.04911840913 
*Va = 5.24627171439 
*Id = 1.01890083211 
*Kb = 7.12576427883 
*Kc = 8.23427638445 

* forces current values to be saved
.options savecurrents

Va n1 n4 5.24627171439

R1 n1 n2 1.00455407009

R2 n2 n3 2.04596274404

R3 n2 n5 3.09144622662

Gb n6 n3 n2 n5 7.12576427883

R4 n4 n5 4.11831176554

R5 n5 n6 3.01223930062

R6 n4 n7 2.09613044241

VHc n7 n8 0 

Hc n5 0 VHc 8.23427638445

Id 0 n6 1.01890083211

R7 n8 0 1.04911840913


.control

set numdgt = 16;

op

echo "********************************************"
echo  "Operating point"
echo "********************************************"

echo  "op_TAB"
print all
echo  "op_END"

quit
.endc

.end
